US05726319
Step A: 4-(t-Butoxycarbonylamino)iodobenzene
4-Iodoaniline (6 g; 27.4 mmol) and di-t-butyl dicarbonate (7.5 g; 34.4 mmol) were dissolved in methylene chloride (50 ml) and the reaction mixture stirred at room temperature for 19 h. The volatiles were removed under reduced pressure and the residues crystallised from ethyl acetate and hexanes 9:1 v/v to give 4.42 g of product. The mother liquors were evaporated under reduced pressure and then were chromatographed on silica gel using a solvent system comprising ether and hexanes 1:3 v/v. Chromatography afforded a further 2.75 g of product. A total yield of 7.17 g (82%) was obtained in the reaction. FAB-MS:- calculated for C11 H14NO2I 319.0 found 319.8 (M).

reactant | 4-Iodoaniline | 27.4 mmol, 6 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | di-t-butyl dicarbonate | 34.4 mmol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(t-Butoxycarbonylamino)iodobenzene | 4.42 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)I | C11H14INO2
